US04386081
(a) Diethyl 4-chlorophenoxycarbonylphosphonate
From 20 g (0.12 mole) of triethylphosphite and 19.1 g (0.10 mole) of 4-chlorophenyl chloroformate (prepared according to M. J. Zabik and R. D. Scheutz J. Org. Chem. 32 (1967) 300). (125° C., 2 hours). Yield 26.3 g (90%). Bp0.01 153°-6° C., nD21 1.4980.

reactant | triethylphosphite | 0.12 mole, 20 g | C(C)OP(OCC)OCC | C6H15O3P
reactant | 4-chlorophenyl chloroformate | 0.10 mole, 19.1 g | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
product | Diethyl 4-chlorophenoxycarbonylphosphonate | ClC1=CC=C(OC(=O)P(OCC)(OCC)=O)C=C1 | C11H14ClO5P
